US03933472
3',5'-Dinitro-4'-(di-n-propylamino)acetophenone
To a solution of 8.9 grams (0.0365 mole) of 4'-chloro-3',5'-dinitroacetophenone in 100 milliliters of benzene, 51 milliliters of di-n-propylamine was slowly added with stirring. The resulting mixture was refluxed for 3 hours. The precipitated dipropylamine hydrochloride was separated by filtration. Evaporation of the filtrate to dryness in vacuo yielded a brown solid weighing 11.5 grams (94.5 percent of the theory). Recrystallization from hexane yielded 8.5 grams of an orange colored crystalline compound, melting point 71°-72° C. Anal. calcd. for C14H19N3O5 : C, 54.36; H, 6.19; N, 13.58. Found: C, 54.47; H, 6.25; N, 13.37.

reactant | 4'-chloro-3',5'-dinitroacetophenone | 0.0365 mole, 8.9 grams | ClC1=C(C=C(C=C1[N+](=O)[O-])C(C)=O)[N+](=O)[O-] | C8H5ClN2O5
reactant | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
solvent | di-n-propylamine | 51 milliliters | C(CC)NCCC | C6H15N
product | 3',5'-Dinitro-4'-(di-n-propylamino)acetophenone | 8.5 grams | [N+](=O)([O-])C=1C=C(C=C(C1N(CCC)CCC)[N+](=O)[O-])C(C)=O | C14H19N3O5
